US07781478B2
A mixture of 1-ethyl-2-iodo-6-methoxy-1H-indole-3-carbonitrile (150 mg, 0.46 mmol), prepared as described in example 1Ga, step A, 4-fluorophenylacetylene (80 mg, 0.0.69 mmol), bis(triphenylphosphine) palladium (II) dichloride (6 mg, 0.009 mmol) and CuI (4 mg, 0.018 mmol) is added to a sealable tube and alternately evacuated and flushed with N2. To the tube is then added DMF (4 mL) and Et3N (0.25 mL, 1.84 mmol) and the reaction is heated at 80° C. for 20 h and then cooled to room temperature. The reaction mixture is diluted with H2O and extracted with EtOAc (2×). The combined organic phases are washed with H2O (3×) and saturated NaCl and then dried over MgSO4 and concentrated. The crude reaction mix is absorbed on silica gel (0.6 g) and chromatographed over silica gel using EtOAc/hexanes (10-20%) as eluent to afford 120 mg (82%) of 1-ethyl-2-(4-fluorophenylethynyl)-6-methoxy-1H-indole-3-carbonitrile as a yellow solid.

reactant | 1-ethyl-2-iodo-6-methoxy-1H-indole-3-carbonitrile | 0.46 mmol, 150 mg | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)I | C12H11IN2O
reactant | 4-fluorophenylacetylene | 80 mg | FC1=CC=C(C=C1)C#C | C8H5F
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | Et3N | 1.84 mmol, 0.25 mL | CCN(CC)CC | C6H15N
solvent | H2O | O | H2O
catalyst | bis(triphenylphosphine) palladium (II) dichloride | 0.009 mmol, 6 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | CuI | 0.018 mmol, 4 mg | [Cu]I
product | 1-ethyl-2-(4-fluorophenylethynyl)-6-methoxy-1H-indole-3-carbonitrile | 120 mg, 82% | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C#CC1=CC=C(C=C1)F | C20H15FN2O
